US08937071B2
LAH (17.45 mg, 0.460 mmol) was added to a solution of ethyl 3-(4-(2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (100 mg, 0.153 mmol) in THF (5 mL). The reaction mixture was stirred at 25° C. for 1 h. The reaction was then extracted with EA (50 mL), washed with water and NaOH solution and dried over Na2SO4. The combined organic extracts were purified by preparative TLC (PE/EA=2:1, Rf=0.4) to yield a light yellow oil of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide (20 mg, 0.032 mmol, 20.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.94-8.03 (m, 2H) 7.77 (d, J=8.53 Hz, 1H) 7.46 (t, J=7.53 Hz, 3H) 7.36-7.43 (m, 3H) 7.27-7.35 (m, 3H) 6.52 (s, 1H) 5.38 (s, 2H) 3.83 (s, 2H) 2.81 (s, 2H) 2.03 (s, 4H) 1.40 (t, J=6.78 Hz, 3H) 1.26 (t, J=7.28 Hz, 3H) 0.82-0.90 (m, 6H); ES-LCMS m/z 611 (M+H).

reactant | LAH | 0.460 mmol, 17.45 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3-(4-(2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)acetamido)-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 0.153 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F)F)OCC | C36H36F4N2O5
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(3-hydroxy-2,2-dimethylpropyl)-3-(trifluoromethyl)phenyl)acetamide | 0.032 mmol, 20 mg, 20.9% yield | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F)F)OCC | C34H34F4N2O4
